US09447090B2
To a solution of 70 mg of N-[(6-chloropyridin-3-yl)methyl]-8-(cyclohexylmethoxy)-2-methylimidazolo[1,2-a]pyridine-3-carboxamide in 1 mL of N-methyl-2-pyrrolidone was added 0.12 mL of ethyl piperidine-3-carboxylate to carry out a reaction at 240° C. for 50 minutes under microwave irradiation. To the reaction mixture were added a saturated aqueous ammonium chloride solution and ethyl acetate to carry out a layer separation operation. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 43 mg of ethyl 1-{5-[({[8-(cyclohexylmethoxy)-2-methylimidazolo[1,2-a]pyridin-3-yl]carbonyl}amino)methyl]pyridin-2-yl}piperidine-3-carboxylate.

reactant | N-[(6-chloropyridin-3-yl)methyl]-8-(cyclohexylmethoxy)-2-methylimidazolo[1,2-a]pyridine-3-carboxamide | 70 mg | ClC1=CC=C(C=N1)CNC(=O)C1=C(N=C2N1C=CC=C2OCC2CCCCC2)C | C22H25ClN4O2
reactant | ethyl piperidine-3-carboxylate | 0.12 mL | N1CC(CCC1)C(=O)OCC | C8H15NO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methyl-2-pyrrolidone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | ethyl 1-{5-[({[8-(cyclohexylmethoxy)-2-methylimidazolo[1,2-a]pyridin-3-yl]carbonyl}amino)methyl]pyridin-2-yl}piperidine-3-carboxylate | 43 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)NCC=2C=CC(=NC2)N2CC(CCC2)C(=O)OCC | C30H39N5O4
